US07067517B2
Methyl-phenyl-carbamic acid 5-benzoyl-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-5-benzoylpyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (30%, crystals).

reactant | 1-hydroxy-5-benzoylpyrazole | ON1N=CC=C1C(C1=CC=CC=C1)=O | C10H8N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 5-benzoyl-pyrazol-1-yl ester | C(C1=CC=CC=C1)(=O)C1=CC=NN1OC(N(C1=CC=CC=C1)C)=O | C18H15N3O3
